US05459151
4-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-[(E)-1-oxo-3-phenyl-2-propenyl]piperidine
A mixture of trans-cinnamic acid (1.20 mmol, 0.178 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (DEC; 1.20 mmol, 0.230 g) and hydroxybenzotriazole (HOBT; 1.20 mmol, 0.162 g) was dissolved in dry CH2Cl2 (20 mL) and stirred at room temperature for 1.5 hours. To this solution was added 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine (1.00 mmol, 0.275 g) in dry CH2Cl2 (10 mL) dropwise over 10 minutes and the resulting solution was stirred at room temperature overnight. The volatiles were removed in vacuo and the residue was partitioned between EtOAc (70 mL) and 1N NaOH (70 mL). The aqueous phase was extracted with EtOAc (1×70 mL), the combined organics washed with H2O (1×70 mL), dried (Na2SO4) and concentrated in vacuo to yield a colorless oil. Purification by flash chromatography (SiO2 : 5% EtOAc/CH2Cl2) afforded the title compound as a white solid, mp=93°-95° C. (0.385 g, 95%).

reactant | trans-cinnamic acid | 1.20 mmol, 0.178 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.20 mmol, 0.230 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | hydroxybenzotriazole | 1.20 mmol, 0.162 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine | 1.00 mmol, 0.275 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCNCC1 | C17H25NO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-[(E)-1-oxo-3-phenyl-2-propenyl]piperidine | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(\C=C\C1=CC=CC=C1)=O | C26H31NO3
